US05399703
Step 2 2-[2-(N-Methyl-N-trifluoroacetylamino)phenylthio]benzonitrile
In 20 ml of N,N-dimethylformamide was dissolved 2.8 g of 2-[2-(trifluoroacetylamino)phenylthio]benzonitrile followed by addition of 2.4 g of methyl iodide and 2.4 g of potassium carbonate, and the mixture was stirred at room temperature for 2 hours, at the end of which time the reaction mixture was diluted with water. The crystals separated out therefrom were collected by filtration, washed with water and aqueous ethanol to give 2.8 g of the title compound as white crystals.

reactant | 2-[2-(trifluoroacetylamino)phenylthio]benzonitrile | 2.8 g | FC(C(=O)NC1=C(C=CC=C1)SC1=C(C#N)C=CC=C1)(F)F | C15H9F3N2OS
reactant | methyl iodide | 2.4 g | CI | CH3I
reactant | potassium carbonate | 2.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[2-(N-Methyl-N-trifluoroacetylamino)phenylthio]benzonitrile | 2.8 g | CN(C(C(F)(F)F)=O)C1=C(C=CC=C1)SC1=C(C#N)C=CC=C1 | C16H11F3N2OS
